US07767675B2
Step 6. 2-Chloro-3-(4-methoxyphenyl)propanal
N-Chlorosuccinimide (980 mg, 0.0073 mol) was added to a mixture of 3-(4-methoxyphenyl)propanal (1.0 g, 6.1 mmol) and D-proline (40 mg, 0.3 mmol) in dichloromethane (10 mL, 200 mmol) at 0° C. The reaction mixture was warmed to RT after 1 h, quenched with water, and extracted with dichloromethane. The organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with ethyl acetate in hexanes to give the desired product (860 mg). 1H NMR (400 MHz, CDCl3): 9.52 (s, 1H), 7.18 (dd, 2H), 6.84 (dd, 2H), 4.36 (m, 1H), 3.80 (s, 3H), 3.32 (m, 1H), 3.02 (m, 1H).

reactant | N-Chlorosuccinimide | 0.0073 mol, 980 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-(4-methoxyphenyl)propanal | 6.1 mmol, 1.0 g | COC1=CC=C(C=C1)CCC=O | C10H12O2
reactant | dichloromethane | 200 mmol, 10 mL | ClCCl | CH2Cl2
catalyst | D-proline | 0.3 mmol, 40 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
product | 2-Chloro-3-(4-methoxyphenyl)propanal | 860 mg | ClC(C=O)CC1=CC=C(C=C1)OC | C10H11ClO2
